US04183859
To 2.5 g of 4-(2-thienylcarbonyl)-1-indancarbonitrile is added 50 g of polyphosphoric acid and, with occasional stirring, the mixture is heated at 80° C. for 2.5 hours. The polyphosphoric acid is decomposed by the addition of water, followed by extraction with ethyl acetate. The extract is washed with water and dried. The solvent is distilled off under reduced pressure and the residue obtained is recrystallized from ethyl acetate. By the above procedure is obtained 4-(2-thienylcarbonyl)-1-indancarboxamide as crystals melting at 164°-166° C.

reactant | 4-(2-thienylcarbonyl)-1-indancarbonitrile | 2.5 g | S1C(=CC=C1)C(=O)C1=C2CCC(C2=CC=C1)C#N | C15H11NOS
reactant | water | O | H2O
product | 4-(2-thienylcarbonyl)-1-indancarboxamide | S1C(=CC=C1)C(=O)C1=C2CCC(C2=CC=C1)C(=O)N | C15H13NO2S
